US07943768B2
To a stirred solution of tert-butyl 3-{[4-(3,4-dichlorophenyl)piperazin-1-yl]carbonyl}piperidine-1-carboxylate (1.002 g) in DCM (10 ml) was added TFA (10 ml). The reaction was allowed to stir at ambient temperature for 2 hours. The solvents were removed in vacuo, the residue partitioned between DCM and 2M NaOH, extracted twice and the combined organics dried (Na2SO4), filtered and evaporated to give the product, 1-(3,4-dichlorophenyl)-4-(piperidin-3-ylcarbonyl)piperazine, as a yellow foam (703 mg).

reactant | tert-butyl 3-{[4-(3,4-dichlorophenyl)piperazin-1-yl]carbonyl}piperidine-1-carboxylate | 1.002 g | ClC=1C=C(C=CC1Cl)N1CCN(CC1)C(=O)C1CN(CCC1)C(=O)OC(C)(C)C | C21H29Cl2N3O3
reactant | TFA | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-(3,4-dichlorophenyl)-4-(piperidin-3-ylcarbonyl)piperazine | ClC=1C=C(C=CC1Cl)N1CCN(CC1)C(=O)C1CNCCC1 | C16H21Cl2N3O
